US07737295B2
To a solution of 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine (166 mg, 0.51 mmol) and methyl chloroformate (107 μL, 1.39 mmol) in CH2Cl2 (5 mL) was added N,N-diisopropylethylamine (485 μL, 2.79 mmol). The reaction was stirred at room temperature for twenty minutes and then was poured into H2O (50 mL). The mixture was extracted with EtOAc (100 mL), and the organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 2% to 20% EtOAc/hexanes afforded methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.29 (15% EtOAc/hexanes). LCMS=382.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.68 (s, 1H), 7.57 (d, J=8.0Hz, 1H), 7.31 (d, J=8.0Hz, 1H), 7.25 (dd, J=8.5, 2.5 Hz, 1H), 6.97 (d, J=2.5 Hz, 1H), 6.91 (d, J=8.5 Hz, 1H), 4.17 (m, 2H), 3.75 (s, 3H), 3.65 (s, 3H), 2.89 (m, 1H), 1.25 (d, J=7.0 Hz, 6H).

reactant | 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine | 0.51 mmol, 166 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
reactant | methyl chloroformate | 1.39 mmol, 107 μL | ClC(=O)OC | C2H3ClO2
reactant | N,N-diisopropylethylamine | 2.79 mmol, 485 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | H2O | 50 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC(OC)=O)OC | C20H22F3NO3
